US07355069B2
c) Methyl 2-[(4-{3-[(2,4-difluorobenzyl)(propyl)amino]-3-oxopropyl}phenoxy)methyl]benzoate
N-(2,4-Difluorobenzyl)-3-(4-hydroxyphenyl)-N-propylpropanamide (290 mg, 0.87 mmol) was dissolved in acetonitrile (10 ml). 2-Bromomethyl-benzoic acid methyl ester (209 mg, 0.913 mmol) was added followed by potassium carbonate, anhydrous (180 mg, 1.305 mmol). The mixture was heated to reflux overnight and then evaporated to dry. Water and ethyl acetate were added and two phases were separated. The organic phase was dried (magnesium sulphate) and evaporated. Chromatography of the residue on a column (ISOLUTE®SI, 20 g/70 ml) using DCM and then MeOH/DCM (1:99) as eluant gave 184 mg the desired product, yield 44%.

reactant | N-(2,4-Difluorobenzyl)-3-(4-hydroxyphenyl)-N-propylpropanamide | 0.87 mmol, 290 mg | FC1=C(CN(C(CCC2=CC=C(C=C2)O)=O)CCC)C=CC(=C1)F | C19H21F2NO2
reactant | 2-Bromomethyl-benzoic acid methyl ester | 0.913 mmol, 209 mg | COC(C1=C(C=CC=C1)CBr)=O | C9H9BrO2
reactant | potassium carbonate, anhydrous | 1.305 mmol, 180 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | Methyl 2-[(4-{3-[(2,4-difluorobenzyl)(propyl)amino]-3-oxopropyl}phenoxy)methyl]benzoate | 184 mg, yield 44% | FC1=C(CN(C(CCC2=CC=C(OCC3=C(C(=O)OC)C=CC=C3)C=C2)=O)CCC)C=CC(=C1)F | C28H29F2NO4
